### PR TITLE
652 remove superscripts from rec constr

### PR DESCRIPTION
**Pull request by carlostome**
# Checklist

- [x] Commit sequence broadly makes sense and commits have useful messages
- [x] Any semantic changes to the specifications are documented in `CHANGELOG.md`
- [ ] Code is formatted according to [CONTRIBUTING.md](https://github.com/input-output-hk/formal-ledger-specifications/blob/master/CONTRIBUTING.md)
- [x] Self-reviewed the diff

### CODE REVIEW

**Comment by carlostome** [comment]
This is currently blocked by #653

**Comment by carlostome** [comment]
Wait to merge until [658](https://github.com/IntersectMBO/formal-ledger-specifications/pull/658) is.

**Comment by carlostome** [comment]
We need to decide what the name for `To` (previously `ToRecord`) should be and where should it live.

File: src/Ledger/Certs/Properties.agda [hunk 1]
```diff
@@ -246,10 +254,12 @@ module _  {Γ : CertEnv}
...
-                  {s' = ⟦ ⟦ _ , _ , rewards' ⟧ᵈ , stᵖ , stᵍ ⟧ᶜˢ}
+    CERTBASE-pov  {s  = cs}
+                  {s' = cs'}
                   (CERT-base {pp}{vs}{e}{dreps}{wdrls} (_ , wdrlsCC⊆rwds)) =
       let
+        open DState (dState cs )
+        open DState (dState cs') renaming (rewards to rewards')
         module ≡ᵉ       = IsEquivalence (≡ᵉ-isEquivalence {Credential × Coin})
         wdrlsCC         = mapˢ (map₁ RwdAddr.stake) (wdrls ˢ)
         zeroMap         = constMap (mapˢ RwdAddr.stake (dom wdrls)) 0
```
Comment (williamdemeo) [inline src/Ledger/Certs/Properties.agda:265]: These changes to `Ledger.Certs.Properties` improve overall clarity and readability.  Nice.

File: src/Ledger/Conway/Conformance/Equivalence.agda [hunk 2]
```diff
@@ -148,7 +149,7 @@ instance
       ledger' : Γ C.⊢ (getCertDeps* cdeposits ⊢conv s) ⇀⦇ tx ,LEDGER⦈ C.⟦ utxoStC' , govSt' , certStateC' ⟧ˡ
       ledger' = C.LEDGER-V⋯ refl utxow' certs' gov'
       utxoEq  : utxoStC' ≡ utxoSt'
-      utxoEq  = cong (λ • → L.⟦ _ , _ , • , _ ⟧ᵘ)
+      utxoEq  = cong (λ • → ⟦ _ , _ , • , _ ⟧)
```
Comment (williamdemeo) [inline src/Ledger/Conway/Conformance/Equivalence.agda:152]: I'm surprised you can remove both the superscript and the `L.` here. 🤔  I suppose I should try to understand the metaprogramming you did to see why this works.

File: src/Ledger/Conway/Conformance/Certs.agda [hunk 3]
```diff
@@ -13,7 +13,7 @@ open import Tactic.Derive.DecEq
 open import Ledger.GovernanceActions gs
 private module Certs = Ledger.Certs gs
 open Certs public
-  hiding (DState; ⟦_,_,_⟧ᵈ; GState; ⟦_,_⟧ᵛ; CertState;
+  hiding (DState; GState; CertState;
```
Comment (williamdemeo) [inline src/Ledger/Conway/Conformance/Certs.agda:16]:
```suggestion
  hiding (DState; GState; CertState;
          To-CertEnv; To-DState; To-PState; To-GState; To-CertState; To-DelegEnv;

```
I think you could hide the `To-` constructor instances from `Ledger.Certs` and then instantiate new ones in this conformance version `Certs`, then you can remove all superscripts on constructors in this module as well.  I've made the suggestions below, but if there's a reason you didn't do this already, you can ignore the suggestions.  In that case, maybe say why you think we shouldn't remove superscripts in the conformance version of `Certs`.

File: src/Ledger/Conway/Conformance/Certs.agda [hunk 4]
```diff
@@ -123,7 +123,7 @@ data _⊢_⇀⦇_,DELEG⦈_ where
           )
     ∙ mkh ∈ mapˢ just (dom pools) ∪ ❴ nothing ❵
       ────────────────────────────────
-      ⟦ pp , pools , delegatees ⟧ᵈᵉ ⊢
+      ⟦ pp , pools , delegatees ⟧ ⊢
       ⟦ vDelegs , sDelegs , rwds , dep ⟧ᵈ
```
Comment (williamdemeo) [inline src/Ledger/Conway/Conformance/Certs.agda:127]: Before this point in the file, you could add the following:
```
instance
  unquoteDecl To-CertEnv To-DState To-PState To-GState To-CertState To-DelegEnv = derive-To
    (   (quote CertEnv , To-CertEnv)
    ∷   (quote DState , To-DState)
    ∷   (quote PState , To-PState)
    ∷   (quote GState , To-GState)
    ∷   (quote CertState , To-CertState)
    ∷ [ (quote DelegEnv , To-DelegEnv) ])
```
and then you could remove the superscript on line 127 as well as similar suggestions below.

```suggestion
      ⟦ vDelegs , sDelegs , rwds , dep ⟧
```

File: src/Ledger/Conway/Conformance/Certs.agda [hunk 5]
```diff
@@ -134,7 +134,7 @@ data _⊢_⇀⦇_,DELEG⦈_ where
     ∙ (CredentialDeposit c , d) ∈ dep
     ∙ md ≡ nothing ⊎ md ≡ just d
       ────────────────────────────────
-      ⟦ pp , pools , delegatees ⟧ᵈᵉ ⊢
+      ⟦ pp , pools , delegatees ⟧ ⊢
       ⟦ vDelegs , sDelegs , rwds , dep ⟧ᵈ
       ⇀⦇ dereg c md ,DELEG⦈
       ⟦ vDelegs ∣ ❴ c ❵ ᶜ , sDelegs ∣ ❴ c ❵ ᶜ , rwds ∣ ❴ c ❵ ᶜ
```
Comment (williamdemeo) [inline src/Ledger/Conway/Conformance/Certs.agda:140]: Could remove superscript `d` in line 138 and 141.

File: src/Ledger/Conway/Conformance/Certs.agda [hunk 6]
```diff
@@ -144,7 +144,7 @@ data _⊢_⇀⦇_,DELEG⦈_ where
     ∙ c ∉ dom rwds
     ∙ d ≡ keyDeposit ⊎ d ≡ 0
       ────────────────────────────────
-      ⟦ pp , pools , delegatees ⟧ᵈᵉ ⊢
+      ⟦ pp , pools , delegatees ⟧ ⊢
         ⟦ vDelegs , sDelegs , rwds , dep ⟧ᵈ ⇀⦇ reg c d ,DELEG⦈
         ⟦ vDelegs , sDelegs , rwds ∪ˡ ❴ c , 0 ❵
         , updateCertDeposit pp (reg c d) dep ⟧ᵈ
```
Comment (williamdemeo) [inline src/Ledger/Conway/Conformance/Certs.agda:150]:
```suggestion
        ⟦ vDelegs , sDelegs , rwds , dep ⟧ ⇀⦇ reg c d ,DELEG⦈
        ⟦ vDelegs , sDelegs , rwds ∪ˡ ❴ c , 0 ❵
        , updateCertDeposit pp (reg c d) dep ⟧
```

File: src/Ledger/Conway/Conformance/Certs.agda [hunk 7]
```diff
@@ -153,7 +153,7 @@ data _⊢_⇀⦇_,GOVCERT⦈_ : GovCertEnv → GState → DCert → GState → T
   GOVCERT-regdrep : ∀ {pp} → let open PParams pp in
     ∙ (d ≡ drepDeposit × c ∉ dom dReps) ⊎ (d ≡ 0 × c ∈ dom dReps)
       ────────────────────────────────
-      ⟦ e , pp , vs , wdrls , cc ⟧ᶜ ⊢
+      ⟦ e , pp , vs , wdrls , cc ⟧ ⊢
       ⟦ dReps , ccKeys , dep ⟧ᵛ
```
Comment (williamdemeo) [inline src/Ledger/Conway/Conformance/Certs.agda:157]:
```suggestion
      ⟦ dReps , ccKeys , dep ⟧
```
and the super `v` on line 160.

File: src/Ledger/Conway/Conformance/Certs.agda [hunk 8]
```diff
@@ -163,28 +163,28 @@ data _⊢_⇀⦇_,GOVCERT⦈_ : GovCertEnv → GState → DCert → GState → T
     ∙ c ∈ dom dReps
     ∙ (DRepDeposit c , d) ∈ dep
       ────────────────────────────────
-      ⟦ e , pp , vs , wdrls , cc ⟧ᶜ ⊢ ⟦ dReps , ccKeys , dep ⟧ᵛ
+      ⟦ e , pp , vs , wdrls , cc ⟧ ⊢ ⟦ dReps , ccKeys , dep ⟧ᵛ
           ⇀⦇ deregdrep c d ,GOVCERT⦈
           ⟦ dReps ∣ ❴ c ❵ ᶜ , ccKeys , updateCertDeposit pp (deregdrep c d) dep ⟧ᵛ
```
Comment (williamdemeo) [inline src/Ledger/Conway/Conformance/Certs.agda:168]:
```suggestion
      ⟦ e , pp , vs , wdrls , cc ⟧ ⊢ ⟦ dReps , ccKeys , dep ⟧
          ⇀⦇ deregdrep c d ,GOVCERT⦈
          ⟦ dReps ∣ ❴ c ❵ ᶜ , ccKeys , updateCertDeposit pp (deregdrep c d) dep ⟧
```

File: src/Ledger/Conway/Conformance/Certs.agda [hunk 9]
```diff
@@ -163,28 +163,28 @@ data _⊢_⇀⦇_,GOVCERT⦈_ : GovCertEnv → GState → DCert → GState → T
...
 
   GOVCERT-ccreghot :
     ∙ (c , nothing) ∉ ccKeys
     ∙ c ∈ cc
       ────────────────────────────────
-      ⟦ e , pp , vs , wdrls , cc ⟧ᶜ ⊢ ⟦ dReps , ccKeys , dep ⟧ᵛ
+      ⟦ e , pp , vs , wdrls , cc ⟧ ⊢ ⟦ dReps , ccKeys , dep ⟧ᵛ
           ⇀⦇ ccreghot c mc ,GOVCERT⦈
           ⟦ dReps , ❴ c , mc ❵ ∪ˡ ccKeys , updateCertDeposit pp (ccreghot c mc) dep ⟧ᵛ
```
Comment (williamdemeo) [inline src/Ledger/Conway/Conformance/Certs.agda:176]:
```suggestion
      ⟦ e , pp , vs , wdrls , cc ⟧ ⊢ ⟦ dReps , ccKeys , dep ⟧
          ⇀⦇ ccreghot c mc ,GOVCERT⦈
          ⟦ dReps , ❴ c , mc ❵ ∪ˡ ccKeys , updateCertDeposit pp (ccreghot c mc) dep ⟧
```

File: src/Ledger/Conway/Conformance/Certs.agda [hunk 10]
```diff
@@ -163,28 +163,28 @@ data _⊢_⇀⦇_,GOVCERT⦈_ : GovCertEnv → GState → DCert → GState → T
...
 
 data _⊢_⇀⦇_,CERT⦈_ : CertEnv → CertState → DCert → CertState → Type where
   CERT-deleg :
-    ∙ ⟦ pp , PState.pools stᵖ , dom (GState.dreps stᵍ) ⟧ᵈᵉ ⊢ stᵈ ⇀⦇ dCert ,DELEG⦈ stᵈ'
+    ∙ ⟦ pp , PState.pools stᵖ , dom (GState.dreps stᵍ) ⟧ ⊢ stᵈ ⇀⦇ dCert ,DELEG⦈ stᵈ'
       ────────────────────────────────
-      ⟦ e , pp , vs , wdrls , cc ⟧ᶜ ⊢ ⟦ stᵈ , stᵖ , stᵍ ⟧ᶜˢ ⇀⦇ dCert ,CERT⦈ ⟦ stᵈ' , stᵖ , stᵍ ⟧ᶜˢ
+      ⟦ e , pp , vs , wdrls , cc ⟧ ⊢ ⟦ stᵈ , stᵖ , stᵍ ⟧ᶜˢ ⇀⦇ dCert ,CERT⦈ ⟦ stᵈ' , stᵖ , stᵍ ⟧ᶜˢ
```
Comment (williamdemeo) [inline src/Ledger/Conway/Conformance/Certs.agda:182]:
```suggestion
      ⟦ e , pp , vs , wdrls , cc ⟧ ⊢ ⟦ stᵈ , stᵖ , stᵍ ⟧ ⇀⦇ dCert ,CERT⦈ ⟦ stᵈ' , stᵖ , stᵍ ⟧
```

File: src/Ledger/Conway/Conformance/Certs.agda [hunk 11]
```diff
@@ -163,28 +163,28 @@ data _⊢_⇀⦇_,GOVCERT⦈_ : GovCertEnv → GState → DCert → GState → T
...
 
   CERT-pool :
     ∙ pp ⊢ stᵖ ⇀⦇ dCert ,POOL⦈ stᵖ'
       ────────────────────────────────
-      ⟦ e , pp , vs , wdrls , cc ⟧ᶜ ⊢ ⟦ stᵈ , stᵖ , stᵍ ⟧ᶜˢ ⇀⦇ dCert ,CERT⦈ ⟦ stᵈ , stᵖ' , stᵍ ⟧ᶜˢ
+      ⟦ e , pp , vs , wdrls , cc ⟧ ⊢ ⟦ stᵈ , stᵖ , stᵍ ⟧ᶜˢ ⇀⦇ dCert ,CERT⦈ ⟦ stᵈ , stᵖ' , stᵍ ⟧ᶜˢ
```
Comment (williamdemeo) [inline src/Ledger/Conway/Conformance/Certs.agda:187]:
```suggestion
      ⟦ e , pp , vs , wdrls , cc ⟧ ⊢ ⟦ stᵈ , stᵖ , stᵍ ⟧ ⇀⦇ dCert ,CERT⦈ ⟦ stᵈ , stᵖ' , stᵍ ⟧
```

File: src/Ledger/Conway/Conformance/Certs.agda [hunk 12]
```diff
@@ -202,7 +202,7 @@ data _⊢_⇀⦇_,CERTBASE⦈_ : CertEnv → CertState → ⊤ → CertState →
     ∙ filterˢ isKeyHash wdrlCreds ⊆ dom voteDelegs
     ∙ mapˢ (map₁ stake) (wdrls ˢ) ⊆ rewards ˢ
       ────────────────────────────────
-      ⟦ e , pp , vs , wdrls , cc ⟧ᶜ ⊢
+      ⟦ e , pp , vs , wdrls , cc ⟧ ⊢
       ⟦ ⟦ voteDelegs , stakeDelegs , rewards , ddep ⟧ᵈ
       , stᵖ
       , ⟦ dReps , ccHotKeys , gdep ⟧ᵛ
```
Comment (williamdemeo) [inline src/Ledger/Conway/Conformance/Certs.agda:208]:
```suggestion
      ⟦ ⟦ voteDelegs , stakeDelegs , rewards , ddep ⟧
      , stᵖ
      , ⟦ dReps , ccHotKeys , gdep ⟧
```
and the super `d` on line 211, super `v` on line 213, and super `cs` on lines 209 and 214.

File: src/Ledger/Conway/Conformance/Epoch.agda [hunk 13]
```diff
@@ -170,14 +172,14 @@ data _⊢_⇀⦇_,EPOCH⦈_ : ⊤ → EpochState → Epoch → EpochState → Ty
 
       certState' =
         ⟦ record dState { rewards = dState .rewards ∪⁺ refunds }
-        , ⟦ (pState .pools) ∣ retired ᶜ , (pState .retiring) ∣ retired ᶜ ⟧ᵖ
+        , ⟦ (pState .pools) ∣ retired ᶜ , (pState .retiring) ∣ retired ᶜ ⟧
         , ⟦ if null govSt' then mapValues (1 +_) (gState .dreps) else (gState .dreps)
           , (gState .ccHotKeys) ∣ ccCreds (es .cc)
           , vDeposits
           ⟧ᵛ
```
Comment (williamdemeo) [inline src/Ledger/Conway/Conformance/Epoch.agda:179]: Should you also remove superscripts on constructors in the conformance version of the `Epoch` module?

**Review by williamdemeo — APPROVED** [review]
A few observations/questions/suggestions, mainly about whether we should also remove superscripts on constructors in conformance modules.

File: src/Ledger/Epoch.lagda [hunk 14]
```diff
@@ -31,15 +31,10 @@ open import Ledger.Certs govStructure
...
 \begin{code}
 record RewardUpdate : Set where
-  constructor ⟦_,_,_,_⟧ʳᵘ
   field
     Δt Δr Δf : ℤ
     rs : Credential ⇀ Coin
 \end{code}
-\begin{code}[hide]
-    -- more convient here than doing checks
-    {zeroSum} : Δt + Δr + Δf + ℤ.+ ∑[ x ← rs ] x ≡ ℤ.0ℤ
```
[the remark this answers is not in the document]
Comment (carlostome) [reply src/Ledger/Epoch.lagda:41]: I'm not sure either why the field is there. Nothing seems to break if I simply remove it. 

@WhatisRT, do you know the purpose of this field?

File: src/Ledger/Conway/Conformance/Equivalence.agda (hunk 2 above)
Comment (carlostome) [reply src/Ledger/Conway/Conformance/Equivalence.agda:152]: This is about an instance of `To` for `RewardsUpdate` being in scope.

File: src/Ledger/Epoch.lagda (hunk 14 above)
[the remark this answers is not in the document]
Comment (WhatisRT) [reply src/Ledger/Epoch.lagda:41]: It's going to be relevant for the preservation of ada proof. `RewardUpdate` is constructed at some point during the epoch and then applied (see `applyRUpd`) at the epoch boundary (this is something we could potentially change in the future, because IIRC this is purely done for performance reasons, but that's another topic). When we apply the `RewardUpdate` the amount of ada in the system changes by this sum, which is why we need it to be zero. So I think there are only two options to deal with this:
- weaken the statement to something like 'ada is preserved if the `RewardUpdate` was correctly constructed', or
- just do it correct-by-construction as is done here.
We usually don't do correct-by-construction in our data for various reasons (e.g. it makes translation for conformance tests more difficult), but here it seemed like a good choice because it disturbs very little and we actually get a stronger property in the end.

File: src/Class/To.agda [hunk 15]
```diff
@@ -0,0 +1,107 @@
...
+open import Class.Monad
+open import Class.Functor
+open import Class.Traversable
+
+open import Data.Product.Nary.NonDependent using (uncurryₙ)
+
+open MonadTCI
+
+getCodPi : Type → Type
+getCodPi ty =
```
Comment (WhatisRT) [inline src/Class/To.agda:29]: This function isn't really what you want here, since it strips away all the arguments of the field projections, but you want to only remove the first. Here's an example where deriving fails because of this:
```
record RFail : Set where
  field r : Bool → Bool

unquoteDecl To-RFail = derive-To ⦃ defaultTCOptions ⦄ ((quote RFail , To-RFail) ∷ [])
```
It's probably not an issue in this code base, but I could see this as a neat feature for stdlib-meta (Lean also has something equivalent to this, which is used everywhere).

File: src/Class/To.agda [hunk 16]
```diff
@@ -0,0 +1,107 @@
...
+    unbumpArg n (arg i x) = arg i (unbumpTerm n x)
+
+    unbumpArgs n [] = []
+    unbumpArgs n (x ∷ xs) = unbumpArg n x ∷ unbumpArgs n xs
+
+-- Map a nonempty record def. to
+-- 1. its constructor
+-- 2. the type of its fields
+-- 3. the number of fields
+fromNERecDef : Definition → TC (Name × List⁺ Type × ℕ)
```
Comment (WhatisRT) [inline src/Class/To.agda:52]: I feel like the `List⁺` is trying a bit too hard here. It could have also been this general-purpose function:
```
fromRecDef : Definition → TC (Name × List Type)
fromRecDef (record′ c fs) =
  do tys ← traverse (λ f → fmap ⦃ Functor-M ⦄ getCodPi (getType (unArg f))) fs
     return (c , tys)
fromRecDef d                    = typeError [ strErr "Expected a record type" ]
```
That could be upstreamed and you handle the error case at the use-site.

File: src/Class/To.agda [hunk 17]
```diff
@@ -0,0 +1,107 @@
...
+fromNERecDef (record′ c (f ∷ fs)) =
+  do ty  ← fmap ⦃ Functor-M ⦄ getCodPi (getType (unArg f))
+     tys ← traverse (λ f → fmap ⦃ Functor-M ⦄ getCodPi (getType (unArg f))) fs
+     return (c , ty ∷ tys , 1 + length fs)
+fromNERecDef (record′ c [])       = typeError [ strErr "Expected a nonempty record type" ]
+fromNERecDef d                    = typeError [ strErr "Expected a record type" ]
+
+getRecConstrName : Name → TC Name
+getRecConstrName rn =
```
Comment (WhatisRT) [inline src/Class/To.agda:61]: With the above general-purpose approach, you also don't need this because you can just project out the name from `fromRecDef`.

**Review by WhatisRT — COMMENTED** [review]
I really like this, but it's a shame that we're losing some of the patterns here. I think some of them should be resurrected. Here's the most obvious place where things got worse. Before:
Screenshot 2025-02-06 at 14 40 52

After: 
Screenshot 2025-02-06 at 14 40 24

Obviously this has other issues as well, but in the before it's really easy to see what changed and maybe more crucially what didn't change (and that e.g. the reserves and treasury didn't get swapped), and in the after this is completely gone (and just adding the vertical vectors back in isn't going to fix it). There are a few other places such as UTXOW.

It's a shame that it's not quite as powerful as Lean's `⟨ ⟩` which also functions as a pattern on the LHS, but there probably isn't much we can do about that. I think in the above cases, it would be good to keep the patterns around just to render those more nicely.

Maybe it could be a future AIM project to get such record patterns that can be used for matching as well?

File: src/Class/To.agda [hunk 18]
```diff
@@ -0,0 +1,110 @@
...
+       (record′ c _) → return c
+       _ → typeError [ strErr "Expected a record got something else" ]
+
+-- Derive instance of To
+derive-To-single : Name -- name of the record type
+                 → Name -- name of the instance to be defined
+                 → TC ⊤
+derive-To-single recTyName instName =
+  do (To-ctrName , _) ← getDefinition (quote To) >>= fromRecDef -- this will be superseeded by 'quote To.constructor' in Agda 2.8.0
+     (ctrName , fTys) ← getDefinition recTyName  >>= fromRecDef
```
Comment (WhatisRT) [inline src/Class/To.agda:72]: Agda has a really nice feature that you could use here:
```suggestion
     (ctrName , fTys@(fTy ∷ fTys)) ← getDefinition recTyName  >>= fromRecDef
       where [] → typeError typeError [ strErr "Expected a nonempty record type" ]
```
Then you don't need the `case` below.

**Comment by carlostome** [comment]
The before/after differences are due to a bug in the `agda2vec.py` script (see #666) not of this PR really

File: src/Class/To.agda (hunk 18 above)
Comment (carlostome) [reply src/Class/To.agda:72]: I think it is more general to generate an instance with the empty type in case the record has no fields.

Comment (WhatisRT) [reply src/Class/To.agda:72]: Ah, I guess that's true

**Comment by WhatisRT** [comment]
If #666 is fixed then it still doesn't resolve the problem. In the before picture, the LHS provides quite a lot of information visually, just by being able to line up matching entries on the RHS. This gets lost completely if the LHS is just `applyRUpd ru epochState`.

File: src/Class/To.agda (hunk 18 above)
Comment (carlostome) [reply src/Class/To.agda]: Good point, the empty product is the unit type. I changed it to give the error if the record is empty.

**Comment by williamdemeo** [comment]
**Update** re. eliminating constructors on LHS of `applyRUpd` def.

Here's what the output looks like now that the `agda2vec` script is working with @carlostome's new constructor type class.
applyRUpd
